US04382929
Methyl 5-(hydroxymethyl)-3-thiophenecarboxylate
A solution of methyl 5-(chloromethyl)-3-thiophenecarboxylate (1.7 g) in 50% aqueous acetone (60 ml) was treated with silver nitrate (1.52 g). After 2 h the resulting precipitate was filtered and the filtrate was evaporated. The residue was extracted with diethyl ether, and the ethereal extract was washed with water. Evaporation of the solvent gave an oily residue, which was chromatographed on silica with ethyl acetate-light petroleum 60°-80°; (1:1) to give the title compound as an oil (0.3 g) b.p. 110/0.1 mm m.p. 38°-40°.

reactant | methyl 5-(chloromethyl)-3-thiophenecarboxylate | 1.7 g | ClCC1=CC(=CS1)C(=O)OC | C7H7ClO2S
reactant | acetone | 60 ml | CC(=O)C | C3H6O
catalyst | silver nitrate | 1.52 g | [N+](=O)([O-])[O-].[Ag+]
product | Methyl 5-(hydroxymethyl)-3-thiophenecarboxylate | 0.3 g | OCC1=CC(=CS1)C(=O)OC | C7H8O3S
